US08957062B2
Step C: [4-(benzyloxy)-2-chlorophenyl]acetic acid
A solution of tert-butyl [4-(benzyloxy)-2-chlorophenyl]acetate (1.0 g, 3.00 mmol) in DCM (8 ml) was treated with TFA (6.94 ml, 90 mmol) and the mixture stirred at RT for 30 min. The volatiles were removed in vacuo to afford the title compound. LC/MS (m/z): 299 (M+Na)+.

reactant | tert-butyl [4-(benzyloxy)-2-chlorophenyl]acetate | 3.00 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CC(=O)OC(C)(C)C)Cl | C19H21ClO3
reactant | TFA | 90 mmol, 6.94 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 8 ml | C(Cl)Cl | CH2Cl2
product | [4-(benzyloxy)-2-chlorophenyl]acetic acid | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CC(=O)O)Cl | C15H13ClO3
